US07825253B2
4-Fluoro-N-[2-(2-methylsulfanyl-benzylamino)-quinolin-5-yl]-benzenesulfonamide
The title compound, MS: m/e=454.3 (M+H+), was prepared in accordance with the general method of example 61 from 5-nitro-2-chloroquinoline, 4-fluorobenzenesulfonylchloride and 2-(methylthio)benzylamine.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 4-fluorobenzenesulfonylchloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | 2-(methylthio)benzylamine | CSC1=C(CN)C=CC=C1 | C8H11NS
product | 4-Fluoro-N-[2-(2-methylsulfanyl-benzylamino)-quinolin-5-yl]-benzenesulfonamide | FC1=CC=C(C=C1)S(=O)(=O)NC1=C2C=CC(=NC2=CC=C1)NCC1=C(C=CC=C1)SC | C23H20FN3O2S2
